US06713499B2
0.28 g (0.95 mmol) {2-methoxy-5-[methyl-(tetrahydro-pyran-4-yl)-amino]-phenyl}-thiourea were dissolved in 15 ml chloroform and 0.05 ml (1.0 mmol) Br2 were added slowly at room temperature. After 24 hrs of reflux the mixture was concentrated in vacuo and the residue suspended in water. Sodium bicarbonate solution was added until the pH was 10, and the crystals were collected by filtration. These were subjected to column chromatography (ethyl acetate) to afford 0.41 g (41 (%o) of 4-methoxy-N7-methyl-N7-(tetrahydro-pyran-4-yl)-benzothiazole-2,7-diamine as an off-white solid. ES-MS m/e (%): 294 (M+H+, 100).

reactant | {2-methoxy-5-[methyl-(tetrahydro-pyran-4-yl)-amino]-phenyl}-thiourea | 0.95 mmol, 0.28 g | COC1=C(C=C(C=C1)N(C1CCOCC1)C)NC(=S)N | C14H21N3O2S
reactant | Br2 | 1.0 mmol, 0.05 ml | BrBr | Br2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-methoxy-N7-methyl-N7-(tetrahydro-pyran-4-yl)-benzothiazole-2,7-diamine | COC1=CC=C(C2=C1N=C(S2)N)N(C2CCOCC2)C | C14H19N3O2S
